US03952044
173 Milligrams of a methanethiol ester of α-acetylamino-α-methylthiophenylacetic acid and 50 mg of thiophenol were dissolved in 10 ml of methanol. To the solution 1 ml of triethylamine was added, and the system was refluxed for 1.5 hours. Concentrating the reaction mixture under reduced pressure, the residue was parted by a column chromatography (silica gel and methylene chloride). Thus 127 mg of methyl α-acetylaminophenylacetate was obtained.

reactant | α-acetylamino-α-methylthiophenylacetic acid | C(C)(=O)NC(C(=O)O)(SC)C1=CC=CC=C1 | C11H13NO3S
reactant | thiophenol | 50 mg | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 10 ml | CO | CH4O
product | methyl α-acetylaminophenylacetate | 127 mg | C(C)(=O)NC(C(=O)OC)C1=CC=CC=C1 | C11H13NO3
